US06121308
c. 7-phthalimido-2,4-dimethyl-quinoline-1-oxide
4.25 g (14 mmol) of 7-phthalimido-2,4-dimethyl-quinoline are dissolved in 500 ml of boiling methylene chloride. After cooling to ambient temperature, 4.80 g of 3-chloroperbenzoic acid (about 50% strength) are added. After 3 hours at ambient temperature the reaction solution is washed 1 x with sodium hydrogen carbonate solution and saline solution, dried over sodium sulphate, concentrated by evaporation and recrystallised from ethanol.

reactant | 7-phthalimido-2,4-dimethyl-quinoline | 14 mmol, 4.25 g | C1(C=2C(C(N1C1=CC=C3C(=CC(=NC3=C1)C)C)=O)=CC=CC2)=O | C19H14N2O2
reactant | 3-chloroperbenzoic acid | 4.80 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 7-phthalimido-2,4-dimethyl-quinoline-1-oxide | C1(C=2C(C(N1C1=CC=C3C(=CC(=[N+](C3=C1)[O-])C)C)=O)=CC=CC2)=O | C19H14N2O3
